* C:\Users\Sabrina Ghidossi\Desktop\ITBA\3 ano 2 C\Electronica 1\Electro1\Trabajo Práctico 2\LTSPICE\carga_pasiva\darlington.asc
Q1 Vcc vi N003 0 BC547B
Q2 Vcc N003 N004 0 BC547B
RB Vcc vi 1k
Vcc Vcc 0 9
RE N004 0 0.9k
C1 vi N002 100n
R1 N002 N001 100
RL 0 vout 10k
C2 N004 vout 100n
V1 N001 0 SINE(0 10m 5k)
.model NPN NPN
.model PNP PNP
.lib C:\Users\Sabrina Ghidossi\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 10m
.backanno
.end
